** sch_path: /foss/designs/libs/core_ina/ina_ccia/ina_ccia2/ina_ccia2.sch
.subckt ina_ccia2 VG VINP VDD VOUTP VINN VOUTN CLKA CLKB VCM VB VSS
*.PININFO VINP:I VINN:I VDD:I VSS:I VCM:I VB:I VG:I VOUTP:O VOUTN:O CLKA:I CLKB:I
x2 VDD net5 net7 net6 VCM VB VSS ina_cmfb
x3 net2 net3 VDD VSS CLKB CLKA net1 net4 ina_chopper
x4 VOUTN net6 VDD VSS CLKB CLKA VOUTP net7 ina_chopper
XCIN3 VINP net3 cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
XCIN4 VINN net4 cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
XCFB1 net3 VOUTP cap_mim_2f0fF c_width=10e-6 c_length=10e-6
XCFB2 net4 VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6
x1 VDD net5 net1 net7 net6 net2 VSS ina_ota
XCOUT VOUTP VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
x6 net4 VOUTN VG ina_pseudores
x5 net3 VOUTP VG ina_pseudores
.ends

* expanding   symbol:  libs/core_ina/ina_cmfb/ina_cmfb.sym # of pins=7
** sym_path: /foss/designs/libs/core_ina/ina_cmfb/ina_cmfb.sym
** sch_path: /foss/designs/libs/core_ina/ina_cmfb/ina_cmfb.sch
.subckt ina_cmfb VDD VCMFB VIN2 VIN1 VCM VB VSS
*.PININFO VIN1:I VIN2:I VCMFB:O VCM:I VSS:I VB:I VDD:I
MC1 VCMFB VCMFB VDD VDD pfet_03v3 L=2u W=8u nf=1
MC3 VCMFB VIN1 net1 VSS nfet_03v3 L=2u W=1.6u nf=1
MC4 net3 VCM net1 VSS nfet_03v3 L=2u W=1.6u nf=1
MC7 net1 VB VSS VSS nfet_03v3 L=2u W=3.2u nf=1
MC5 net3 VCM net2 VSS nfet_03v3 L=2u W=1.6u nf=1
MC6 VCMFB VIN2 net2 VSS nfet_03v3 L=2u W=1.6u nf=1
MC8 net2 VB VSS VSS nfet_03v3 L=2u W=3.2u nf=1
MC2 net3 net3 VDD VDD pfet_03v3 L=2u W=8u nf=1
Mndiff_dummy_L[1] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_L[0] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_R[1] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_R[0] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mpcmfb_dummy_L VDD VDD VDD VDD pfet_03v3 L=2u W=8u nf=1
Mpcfmb_dummy_R VDD VDD VDD VDD pfet_03v3 L=2u W=8u nf=1
Mntail_dummy_L VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
Mntail_dummy_R VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
.ends


* expanding   symbol:  libs/core_ina/ina_chopper/ina_chopper.sym # of pins=8
** sym_path: /foss/designs/libs/core_ina/ina_chopper/ina_chopper.sym
** sch_path: /foss/designs/libs/core_ina/ina_chopper/ina_chopper.sch
.subckt ina_chopper VOUT2 VIN1 VDD VSS CLKB CLKA VOUT1 VIN2
*.PININFO VIN1:I VIN2:I CLKB:I VOUT2:O CLKA:I VOUT1:O VDD:I VSS:I
MT2 VOUT1 CLKA VIN1 VSS nfet_03v3 L=0.28u W=2u nf=1
MT1 VOUT1 CLKB VIN1 VDD pfet_03v3 L=0.28u W=4u nf=1
MT4 VOUT2 CLKB VIN1 VSS nfet_03v3 L=0.28u W=2u nf=1
MT3 VOUT2 CLKA VIN1 VDD pfet_03v3 L=0.28u W=4u nf=1
MT6 VOUT2 CLKA VIN2 VSS nfet_03v3 L=0.28u W=2u nf=1
MT5 VOUT2 CLKB VIN2 VDD pfet_03v3 L=0.28u W=4u nf=1
MT8 VOUT1 CLKB VIN2 VSS nfet_03v3 L=0.28u W=2u nf=1
MT7 VOUT1 CLKA VIN2 VDD pfet_03v3 L=0.28u W=4u nf=1
MT2_dummy VOUT1 CLKB VOUT1 VSS nfet_03v3 L=0.28u W=1u nf=1
MT1_dummy VOUT1 CLKA VOUT1 VDD pfet_03v3 L=0.28u W=2u nf=1
MT4_dummy VOUT2 CLKA VOUT2 VSS nfet_03v3 L=0.28u W=1u nf=1
MT3_dummy VOUT2 CLKB VOUT2 VDD pfet_03v3 L=0.28u W=2u nf=1
MT5_dummy VOUT2 CLKA VOUT2 VDD pfet_03v3 L=0.28u W=2u nf=1
MT6_dummy VOUT2 CLKB VOUT2 VSS nfet_03v3 L=0.28u W=1u nf=1
MT7_dummy VOUT1 CLKB VOUT1 VDD pfet_03v3 L=0.28u W=2u nf=1
MT8_dummy VOUT1 CLKA VOUT1 VSS nfet_03v3 L=0.28u W=1u nf=1
.ends


* expanding   symbol:  libs/core_ina/ina_ota/ina_ota.sym # of pins=7
** sym_path: /foss/designs/libs/core_ina/ina_ota/ina_ota.sym
** sch_path: /foss/designs/libs/core_ina/ina_ota/ina_ota.sch
.subckt ina_ota VDD VTAIL VIN1 VOUT2 VOUT1 VIN2 VSS
*.PININFO VIN1:I VIN2:I VTAIL:I VSS:I VOUT1:O VDD:I VOUT2:O
M4 net4 net4 VDD VDD pfet_03v3 L=6u W=0.65u nf=1
M1 net3 VTAIL VDD VDD pfet_03v3 L=2u W=8u nf=1
M7 net5 net5 VDD VDD pfet_03v3 L=6u W=0.65u nf=1
M2 net1 VIN1 net3 VDD pfet_03v3 L=0.28u W=15u nf=1 m=10
M3 net2 VIN2 net3 VDD pfet_03v3 L=0.28u W=15u nf=1 m=10
M10 net4 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M11 net5 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M8 net1 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M9 net2 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M5 VOUT1 net4 VDD VDD pfet_03v3 L=6u W=0.65u nf=1
M13 VOUT1 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M12 VOUT2 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M6 VOUT2 net5 VDD VDD pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_L[1] VDD VDD VDD VDD pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_L[0] VDD VDD VDD VDD pfet_03v3 L=6u W=0.65u nf=1
Mpdiff_dummy_L VDD VDD VDD VDD pfet_03v3 L=0.28u W=15u nf=1
Mpota_dummy_R[1] VDD VDD VDD VDD pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_R[0] VDD VDD VDD VDD pfet_03v3 L=6u W=0.65u nf=1
Mpdiff_dummy_R VDD VDD VDD VDD pfet_03v3 L=0.28u W=15u nf=1
Mnota_dummy_L[1] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_L[0] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_R[1] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_R[0] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mptail_dummy_L VDD VDD VDD VDD pfet_03v3 L=2u W=8u nf=1
Mptail_dummy_R VDD VDD VDD VDD pfet_03v3 L=2u W=8u nf=1
.ends


* expanding   symbol:  libs/core_ina/ina_pseudores/ina_pseudores.sym # of pins=3
** sym_path: /foss/designs/libs/core_ina/ina_pseudores/ina_pseudores.sym
** sch_path: /foss/designs/libs/core_ina/ina_pseudores/ina_pseudores.sch
.subckt ina_pseudores VA VB VG
*.PININFO VG:I VA:B VB:B
MR1 VA VG VG VG nfet_03v3 L=5u W=0.5u nf=1
MR2 net2 VG VG VG nfet_03v3 L=5u W=0.5u nf=1
MR3 net2 net1 net1 net1 nfet_03v3 L=12u W=0.5u nf=1
MR4 VB net1 net1 net1 nfet_03v3 L=12u W=0.5u nf=1
.ends

